### PR TITLE
Bing borsuk conjecture

### LINKED ISSUE #2185: Bing-Borsuk conjecture
### What is the conjecture

 An **absolute neighborhood retract** (ANR) is a topological space $X$ such that for every embedding $X \subset Y$ in a normal space $Y$, there exists a continuous retraction from a neighborhood of $X$ onto $X$. A topological space is **homogeneous** if its topological group of self-homeomorphisms acts transitively on it (i.e., for any two points, there is a homeomorphism mapping one to the other).

**The Bing-Borsuk Conjecture:** Every $n$-dimensional homogeneous ANR is a topological $n$-manifold.

The conjecture has been verified in dimensions 1 and 2 but remains open in higher dimensions. A notable consequence is that if the 3-dimensional case is true, it implies the Poincaré conjecture.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Bing%E2%80%93Borsuk_conjecture, https://arxiv.org/abs/0811.0886

### Prerequisites needed

**Formalizability Rating:** 2/5 (0 is best) (as of 2026-02-06)

Building blocks (1-3; from search results):
- `Manifold` (topological manifolds are defined in Mathlib)
- `Continuous` (continuous maps and retracts are standard)
- `Homeomorphism` (homeomorphisms and topological equivalence are formalized)

Missing pieces (exactly 2; unclear/absent from search results):
- Formal definition of **ANR (absolute neighborhood retract)** as a structured type or property in Mathlib
- Formal definition of **homogeneous spaces** (spaces admitting a transitive group action) as a key property

Rating justification: Core topological concepts (manifolds, retracts, continuity) exist in Mathlib, but formalizing the conjecture requires introducing the specialized notion of ANR spaces and explicitly encoding the homogeneity condition. These are non-trivial but well-defined additions to the topological theory already present in Mathlib.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-54
* ams-57

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by Sfgangloff**
Closes #2185

### Original formulation: 

Every $n$-dimensional homogeneous absolute neighborhood retract is a topological $n$-manifold.
 
### Changes: 

- Add FormalConjectures/Wikipedia/BingBorsuk.lean
- Add the supporting topological definitions in `FormalConjecturesForMathlib/Topology/`:
- `IsAbsoluteNeighborhoodRetract`: closed-embedding-into-normal-space characterization of ANRs.
- `HomogeneousSpace`: homeomorphism group acts transitively, this is the definition found in the paper, less general than the one found on Wikipedia (the group G is taken to be the group of homeomorphisms of X). 
- `HasLebesgueCoveringDimensionLE` / `HasLebesgueCoveringDimensionEq`: Lebesgue
  covering dimension via finite open refinements, used to formalize "$n$-dimensional" in the statement. 

### References
- [Wikipedia: Bing–Borsuk conjecture](https://en.wikipedia.org/wiki/Bing%E2%80%93Borsuk_conjecture)
- Halverson, D. M. and Repovš, D., *The Bing–Borsuk and the Busemann conjectures*, Math. Communications 13.2 (2008), 163–184. https://arxiv.org/abs/0811.0886

### CODE REVIEW

File: FormalConjectures/Wikipedia/BingBorsuk.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+open scoped Manifold
+
+/--
+The Bing-Borsuk Conjecture: every $n$-dimensional homogeneous absolute neighborhood retract
+is a topological $n$-manifold.
+-/
+@[category research open, AMS 54 57]
+theorem bing_borsuk_conjecture : ∀ n : ℕ, ∀ (X : Type) [TopologicalSpace X] [HomogeneousSpace X] [IsAbsoluteNeighborhoodRetract X],
+    HasLebesgueCoveringDimensionEq X n →
+    T2Space X ∧ Nonempty (ChartedSpace (Fin n → ℝ) X) := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/BingBorsuk.lean]: should Hausdorff should be a hypothesis, not a conclusion?

Either add `[CompactSpace X] [MetrizableSpace X]` as hypotheses (which give Hausdorff for free), or at minimum move `T2Space X` to a hypothesis?

As written one can provide a trivial disproof: 
```lean
open TopologicalSpace

/-- A custom two-element type to avoid the existing `Bool` topology instance. -/
inductive TwoPoints where
  | pt0 : TwoPoints
  | pt1 : TwoPoints
  deriving DecidableEq, Nonempty, Inhabited

/-- Swap the two points. -/
def TwoPoints.swap : TwoPoints → TwoPoints
  | .pt0 => .pt1
  | .pt1 => .pt0

@[simp] lemma TwoPoints.swap_swap (x : TwoPoints) : x.swap.swap = x := by cases x <;> rfl

/-- Give TwoPoints the indiscrete topology. -/
instance : TopologicalSpace TwoPoints := ⊤

-- HomogeneousSpace for indiscrete TwoPoints
instance : HomogeneousSpace TwoPoints where
  is_transitive := by
    intro x y
    by_cases h : x = y
    · exact ⟨Homeomorph.refl TwoPoints, h⟩
    · refine ⟨⟨⟨TwoPoints.swap, TwoPoints.swap, TwoPoints.swap_swap, TwoPoints.swap_swap⟩,
        continuous_top, continuous_top⟩, ?_⟩
      cases x <;> cases y <;> simp_all [TwoPoints.swap]

-- IsAbsoluteNeighborhoodRetract for indiscrete TwoPoints
-- Key: any function INTO ⊤ topology is continuous (continuous_top).
open Classical in
instance : IsAbsoluteNeighborhoodRetract TwoPoints where
  exists_neighborhood_retract := by
    intro Y _ _ e he
    refine ⟨Set.univ, Function.invFun e,
      isOpen_univ, Set.subset_univ _, ?_, ?_⟩
    · exact continuous_top.continuousOn
    · exact Function.leftInverse_invFun he.injective

-- NOT T2Space for indiscrete TwoPoints
theorem not_t2_twoPoints : ¬ T2Space TwoPoints := by
  intro ⟨h⟩
  obtain ⟨u, v, hu, hv, htu, hfv, huv⟩ :=
    @h TwoPoints.pt0 TwoPoints.pt1 (by decide)
  -- In ⊤ topology, only ∅ and univ are open
  rcases (isOpen_top_iff u).mp hu with rfl | rfl
  · simp at htu
  · rcases (isOpen_top_iff v).mp hv with rfl | rfl
    · simp at hfv
    · exact absurd (huv.eq_bot_of_le le_top) (by simp)


/-- The Bing-Borsuk conjecture as stated is trivially false because `T2Space` appears in the
conclusion rather than as a hypothesis. A two-element indiscrete space is a counterexample. -/
@[category test, AMS 54 57]
theorem bing_borsuk_conjecture_counterexample : ¬ ∀ n : ℕ,
    ∀ (X : Type) [TopologicalSpace X] [HomogeneousSpace X] [IsAbsoluteNeighborhoodRetract X],
    HasLebesgueCoveringDimensionEq X n →
    T2Space X ∧ Nonempty (ChartedSpace (Fin n → ℝ) X) := by
  intro h
  -- Instantiate with n=0 and X=TwoPoints (indiscrete)
  have key := @h 0 TwoPoints ⊤ inferInstance inferInstance
  -- Provide HasLebesgueCoveringDimensionEq TwoPoints 0
  have hdim : @HasLebesgueCoveringDimensionEq TwoPoints ⊤ 0 := by
    constructor
    · -- HasLebesgueCoveringDimensionLE TwoPoints 0
      intro 𝓤 h𝓤fin h𝓤open h𝓤cover
      have huniv : Set.univ ∈ 𝓤 := by
        have : ∃ U ∈ 𝓤, U = Set.univ := by
          by_contra hc
          push_neg at hc
          have hempty : ∀ U ∈ 𝓤, U = ∅ := by
            intro U hU
            rcases (isOpen_top_iff U).mp (h𝓤open U hU) with rfl | rfl
            · rfl
            · exact absurd rfl (hc Set.univ hU)
          rw [Set.sUnion_eq_univ_iff] at h𝓤cover
          obtain ⟨t, ht⟩ := h𝓤cover (Classical.arbitrary TwoPoints)
          simp [hempty t ht.1] at ht
        obtain ⟨U, hU, rfl⟩ := this
        exact hU
      refine ⟨{Set.univ}, Set.finite_singleton _, ?_, ?_, ?_, ?_⟩
      · intro V hV; rw [Set.mem_singleton_iff.mp hV]; exact isOpen_univ
      · simp
      · intro V hV; exact ⟨Set.univ, huniv, Set.mem_singleton_iff.mp hV ▸ le_refl _⟩
      · intro x
        convert_to ({Set.univ} : Set (Set TwoPoints)).encard ≤ ↑(0 + 1)
        · congr 1; ext s; simp; intro h; subst h; simp
        · simp
    · intro m hm; omega
  have ⟨ht2, _⟩ := key hdim
  exact not_t2_twoPoints ht2
```

**Review by mo271 — COMMENTED** [review]
trivial disproof, please fix

File: FormalConjectures/Wikipedia/BingBorsuk.lean (hunk 1 above)
Comment (Sfgangloff) [reply FormalConjectures/Wikipedia/BingBorsuk.lean]: Indeed, here T2Space is in the conclusion as part of characterization of manifold. The mistake is that Borsuk actually defines the ANR as metric spaces, while the Wikipedia definition is a generalization. So adding metric space in the hypotheses should be enough. Then I'll remove the T2Space conclusion and add a note about the characterization of manifold.

File: FormalConjecturesForMathlib/Topology/Homogeneous.lean [hunk 2]
```diff
@@ -0,0 +1,25 @@
...
+module
+
+public import Mathlib.Topology.Basic
+public import Mathlib.Topology.Homeomorph.Defs
+
+@[expose] public section
+
+/-- A space is homogeneous if its homeomorphism group acts transitively. -/
+class HomogeneousSpace (X : Type*) [TopologicalSpace X] : Prop where
+  is_transitive : ∀ x y : X, ∃ f : Homeomorph X X, f x = y
```
Comment (mo271) [inline FormalConjecturesForMathlib/Topology/Homogeneous.lean:25]: I would have expected that Mathlib already has something useful here, but didn't find anything

**Review by mo271 — APPROVED** [review]
Thanks, LGTM now
